US08008298B2
3-[7-(2,2-Dimethyl-propionyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-N-(2-hydroxy-ethyl)-5-pyrrolidin-1-yl-benzamide was prepared following the same procedure but using 3-[7-(2,2-dimethyl-propionyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-N-(2-hydroxy-ethyl)-5-pyrrolidin-1-yl-benzamide as starting material. The product was obtained in 83% yield after SiO2 chromatography (DCM/MeOH 0-5% MeOH).

reactant | 3-[7-(2,2-dimethyl-propionyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-N-(2-hydroxy-ethyl)-5-pyrrolidin-1-yl-benzamide | CC(C(=O)C1=CN(C2=NC=C(N=C21)C=2C=C(C(=O)NCCO)C=C(C2)N2CCCC2)COCC[Si](C)(C)C)(C)C | C30H43N5O4Si
solvent | DCM MeOH | C(Cl)Cl.CO
product | 3-[7-(2,2-Dimethyl-propionyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-N-(2-hydroxy-ethyl)-5-pyrrolidin-1-yl-benzamide | 83% yield | CC(C(=O)C1=CNC2=NC=C(N=C21)C=2C=C(C(=O)NCCO)C=C(C2)N2CCCC2)(C)C | C24H29N5O3
